US07759373B2
A mixture of 5-(5-chlorothiophen-2-yl)-2-(4-fluoro-phenyl)-4-hydroxymethyloxazole (1.44 g) and manganese dioxide (4.76 g) in tetrahydrofuran (20 ml) was refluxed for 3 hours. The reaction mixture was filtered through Cellite and the filtrate was concentrated under reduced pressure. The resulting reside was triturated with diethyl ether to obtain 5-(5-chlorothiophen-2-yl)-2-(4-fluorophenyl)-4-formyl-oxazole (943 mg) as colorless powder.

reactant | 5-(5-chlorothiophen-2-yl)-2-(4-fluoro-phenyl)-4-hydroxymethyloxazole | 1.44 g | ClC1=CC=C(S1)C1=C(N=C(O1)C1=CC=C(C=C1)F)CO | C14H9ClFNO2S
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | manganese dioxide | 4.76 g | [O-2].[O-2].[Mn+4]
product | 5-(5-chlorothiophen-2-yl)-2-(4-fluorophenyl)-4-formyl-oxazole | 943 mg | ClC1=CC=C(S1)C1=C(N=C(O1)C1=CC=C(C=C1)F)C=O | C14H7ClFNO2S
